US06608072B1
b) 5-Chloro-2-(4-fluorophenyl)-1-(2-methylthio-4-pyrimidinyl)imidazo[4,5-b]pyridine
KN(TMS)2 (1.42 g 7.16 mmol) in toluene (7 ml) is added at 0° C. to a solution of 5Chloro-2-(4fluorophenyl)imidazo[4,5-b]pyridine (1.9 g 6.66 mmol) in DMF (25 ml). After stirring 1 h at room temperature, 2-methylthio-4-iodopyrimidine (1.8 g 7.1 mmol) in toluene (7 ml) is added dropwise and heated for 20 h at 120° C. The reaction mixture is poured on water and extracted with ethyl acetate three times. The combined organic phases are dried over Na2SO4, filtered and evaporated to dryness to yield the crystalline crude product, which after recrystallisation from ethyl acetate yields the title compound as colorless crystals (1.76 g 67%).

reactant | 5Chloro-2-(4fluorophenyl)imidazo[4,5-b]pyridine | 6.66 mmol, 1.9 g | ClC1=CC=C2C(=N1)N=C(N2)C2=CC=C(C=C2)F | C12H7ClFN3
reactant | 2-methylthio-4-iodopyrimidine | 7.1 mmol, 1.8 g | CSC1=NC=CC(=N1)I | C5H5IN2S
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-(4-fluorophenyl)-1-(2-methylthio-4-pyrimidinyl)imidazo[4,5-b]pyridine | 1.76 g, 67% | ClC1=CC=C2C(=N1)N=C(N2C2=NC(=NC=C2)SC)C2=CC=C(C=C2)F | C17H11ClFN5S
